US08754053B2
1-(4-Bromo-3-methyl-phenyl)-2-(triphenylphosphanylidene)-ethanone (Va)
1300 mg of 2-Bromo-1-(4-bromo-3-methyl-phenyl)-ethanone (VIIa) (Journal of Organic Chemistry (1947), 12, 617-703) was stirred with 1300 mg of triphenylphosphine in 20 ml of dichloromethane at ambient temperature for 18 hours. The mixture was diluted with toluene and the separated phosphonium salt was filtered off. It was then suspended in 20 ml of dichloromethane and 20 ml of water. 800 mg (7.55 mmol) of sodium bicarbonate was then added in 20 ml of water and the mixture was stirred overnight. The organic layer was separated, dried and evaporated under reduced pressure. The residue was triturated with hexane giving 1.6 g (86%) of 1-(4-Bromo-3-methyl-phenyl)-2-(triphenylphosphanylidene)-ethanone (Va) as a solid. 1H-NMR (CDCl3, δ in ppm): 7.40-7.90 (m, 18H), 4.40 (m, 1H).

reactant | 2-Bromo-1-(4-bromo-3-methyl-phenyl)-ethanone | 1300 mg | BrCC(=O)C1=CC(=C(C=C1)Br)C | C9H8Br2O
reactant | triphenylphosphine | 1300 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium bicarbonate | 7.55 mmol, 800 mg | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | 1-(4-Bromo-3-methyl-phenyl)-2-(triphenylphosphanylidene)-ethanone | BrC1=C(C=C(C=C1)C(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C27H22BrOP
